US07745641B2
3-Chloro-N-(1-methyl-1-phenylethyl)benzamide (7.00 g, 25.6 mmol) was dissolved in THF (280 mL), and the solution was added with TMEDA (12.4 mL, 81.9 mmol), then added with sec-butyllithium-hexane solution (0.99 mol/L, 82.7 mL, 81.9 mmol) by drops at −78° C. for 40 minutes under argon atmosphere, followed by stirring at the same temperature for 2.5 hours. Then, the mixture was added with DMF (4.36 mL, 56.3 mmol) and warmed from −78° C. to room temperature over 2 hours. The reaction mixture was added with water, extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by slurry using diisopropyl ether to obtain 4-chloro-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (6.86 g, yield 89%).

reactant | 3-Chloro-N-(1-methyl-1-phenylethyl)benzamide | 25.6 mmol, 7.00 g | ClC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1 | C16H16ClNO
reactant | TMEDA | 81.9 mmol, 12.4 mL | CN(C)CCN(C)C | C6H16N2
reactant | sec-butyllithium hexane | 81.9 mmol, 0.99 mol/L, 82.7 mL | C(C)(CC)[Li].CCCCCC
reactant | DMF | 56.3 mmol, 4.36 mL | CN(C)C=O | C3H7NO
solvent | THF | 280 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-chloro-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 6.86 g, yield 89% | ClC1=C2C(N(C(C2=CC=C1)=O)C(C)(C1=CC=CC=C1)C)O | C17H16ClNO2
